US04089976
Preparation of 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea.
A solution of 0.5 g of 1,2,3,4-tetrahydro-1-naphthylurea in 50 ml of 50% aqueous acetic acid is cooled to below 5° C and 6.0 g of ceric ammonium nitrate added. After 5 minutes the mixture is diluted with water and extracted with 3 × 5 ml of ethyl acetate. The extracts are combined and evaporated to dryness to afford the crude title product.

reactant | 1,2,3,4-tetrahydro-1-naphthylurea | 0.5 g | C1(CCCC2=CC=CC=C12)NC(=O)N | C11H14N2O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
